US05679672
Lithium borohydride (6.5 mg, 0.3 mmol) was added to a solution of (2R)-3-(2,4-dichlorophenyl)-N-{1,2-dihydro-2-methoxycarbonyl-6-phenyl-4H-imidazo [1,2-a][1,4]benzodiazepin-4-yl}propanamide (160 mg, 0.3 mmol) in THF (20 mL) and the mixture was stirred at room temperature for 18 h. The mixture was cooled to 0° C. and methanol then water were added. The solvent was evaporated under reduced pressure, ethyl acetate was added and the mixture was washed with brine, dried (Na2SO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with CH2Cl2 /MeOH (97.5:2.5) to give (2R)-3-(2,4-dichlorophenyl)-N-{1,2-dihydro-2-hydroxymethyl-6-phenyl-4H-imidazo[1,2-a][1,4]benzodiazepin-4-yl}propanamide as a foam.

reactant | Lithium borohydride | 0.3 mmol, 6.5 mg | [BH4-].[Li+]
reactant | (2R)-3-(2,4-dichlorophenyl)-N-{1,2-dihydro-2-methoxycarbonyl-6-phenyl-4H-imidazo [1,2-a][1,4]benzodiazepin-4-yl}propanamide | 0.3 mmol, 160 mg | ClC1=C(C=CC(=C1)Cl)CCC(=O)NC1C=2N(C3=C(C(=N1)C1=CC=CC=C1)C=CC=C3)C[C@@H](N2)C(=O)OC | C28H24Cl2N4O3
reactant | methanol | CO | CH4O
reactant | water | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (2R)-3-(2,4-dichlorophenyl)-N-{1,2-dihydro-2-hydroxymethyl-6-phenyl-4H-imidazo[1,2-a][1,4]benzodiazepin-4-yl}propanamide | ClC1=C(C=CC(=C1)Cl)CCC(=O)NC1C=2N(C3=C(C(=N1)C1=CC=CC=C1)C=CC=C3)C[C@@H](N2)CO | C27H24Cl2N4O2
